* THS3110, Low-Noise, High-Voltage, Current-Feedback Amplifier
*****************************************************************************
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.                                          
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                           
** TI and its licensors and suppliers make no warranties, either expressed                                         
** or implied, with respect to this model, including the warranties of                                                  
** merchantability or fitness for a particular purpose. The model is                                                  
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer                                                                                            
*****************************************************************************
*
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part:        THS3110
* Written:     2009-08-18
* Model Type:  TINA
* Simulator:   Version 7.0.80.40 SF
* Revision:    A
* Datasheet:   SLOS422D–SEPTEMBER 2003–REVISED MAY 2008
*
*****************************************************************************
*  
* NOTES:
*   1- This macromodel predicts well: DC, small-signal AC, noise,
*      , and transient performance under a wide range
*      of conditions.
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      temperature effects, board parasitics, differences
*      between package styles, and process changes
*   3- Known Problems: - None
*
* |----------------------------------------------------------------------
* |  This macro model is being supplied as an aid to       
* |  circuit designs.  While it reflects reasonably close      
* |  similarity to the actual device in terms of performance,
* |  it is not suggested as a replacement for breadboarding.
* |  Simulation should be used as a forerunner or a supplement
* |  to traditional lab testing.                              
* |                                                           
* |  Neither this library nor any part may be copied without  
* |  the express written consent of Texas Instruments Corp. 
* |----------------------------------------------------------------------
*
* CONNECTIONS:
*
*                 NONINVERTING INPUT 
*                 |   INVERTING INPUT 
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |  NEGATIVE POWER SUPPLY
*                 |   |   |   |    OUTPUT
*                 |   |   |   |    |   POWER DOWN
*                 |   |   |   |    |   |   REFERENCE VOLTAGE
*                 |   |   |   |    |   |   |    
*                 |   |   |   |    |   |   |     
*                 |   |   |   |    |   |   |     
*                 |   |   |   |    |   |   |     
*                 |   |   |   |    |   |   |     
.SUBCKT THS3110  In+ In- Vcc+ Vcc- Out PD Ref
V_Shutdown_V2         Shutdown_N03031 Shutdown_VMID .375
R_Shutdown_R2         Shutdown_THRSH Shutdown_VMID  294k TC=0,0 
C_Shutdown_C1         Shutdown_VMID Shutdown_THRSH  2p  TC=0,0 
R_Shutdown_R3         Shutdown_VMID Shutdown_THRSH  100G TC=0,0 
X_Shutdown_F4         Shutdown_N03212 Shutdown_N08105 VCC+ N00664 Shutdown_Shutdown_F4 
R_Shutdown_R5         Shutdown_VMID Shutdown_N04726  10k TC=0,0 
X_Shutdown_F5         Shutdown_N08105 Shutdown_N08077 VCC+ Shutdown_N08119 Shutdown_Shutdown_F5 
X_Shutdown_F1         Shutdown_N02520 Shutdown_N05552 VCC+ N00664 Shutdown_Shutdown_F1 
X_Shutdown_F6         Shutdown_N08119 VCC- N02600 VCC- Shutdown_Shutdown_F6 
E_Shutdown_E1         Shutdown_N00753 VCC- VCC+ VCC- .5
R_Shutdown_R6         Shutdown_VMID Shutdown_N08077  10k TC=0,0 
R_Shutdown_R4         Shutdown_N01393 Shutdown_THRSH  100 TC=0,0 
X_Shutdown_F2         Shutdown_N05552 Shutdown_N04726 VCC+ Shutdown_N06179 Shutdown_Shutdown_F2 
X_Shutdown_S1         Shutdown_THRSH 0 Shutdown_N02520 Shutdown_N02366 Shutdown_Shutdown_S1 
V_Shutdown_V1         Shutdown_N02366 Shutdown_VMID .289
X_Shutdown_F3         Shutdown_N06179 VCC- N02600 VCC- Shutdown_Shutdown_F3 
E_Shutdown_E2         0 Shutdown_N01393 REF PD .5
R_Shutdown_R1         Shutdown_N00753 Shutdown_VMID  10k TC=0,0 
X_Shutdown_S2         Shutdown_THRSH 0 Shutdown_N03212 Shutdown_N03031 Shutdown_Shutdown_S2 
Q_Amp_Q23             OUT Amp_N10326 Amp_N10322 NPN3 2
Q_Amp_Q44             VCC+ In+ N02600 NPN_IN4 
Q_Amp_Q40             Amp_N10326 Amp_N09152 OUT PNP3 2
Q_Amp_Q34	      Amp_N01727 Amp_N01727 Amp_N01735 PNP3 .625
Q_Amp_Q37             Amp_N09420 Amp_N01408 Amp_N01430 PNP3 1
R_Amp_R15             Amp_N140830 VCC+  80k TC=0,0 
Q_Amp_Q26             Amp_N07239 Amp_N02751 Amp_N02803 NPN3 .625
R_Amp_R13             Amp_N11700 VCC+  72 TC=0,0 
C_Amp_C2              VCC- Amp_N140830  5p  TC=0,0 
R_Amp_R5              Amp_N02517 Amp_N02857  600 TC=0,0 
R_Amp_R14             Amp_N11696 VCC+  1 TC=0,0 
Q_Amp_Q27             Amp_N11692 Amp_N09420 OUT NPN3 2
R_Amp_R6              Amp_N02517 Amp_N02803  600 TC=0,0 
R_Amp_R7              VCC- Amp_N032380  50 TC=0,0 
Q_Amp_Q43             Amp_N01727 N00664 In- NPN_IN4 
Q_Amp_Q33             Amp_N01408 Amp_N01408 Amp_N01454 PNP3 1
Q_Amp_Q36             Amp_N07239 Amp_N01727 Amp_N01731 PNP3 .625
Q_Amp_Q25             VCC+ Amp_N07239 Amp_N09152 NPN3 .3
R_Amp_R8              VCC- Amp_N032540  50 TC=0,0 
R_Amp_R9              OUT OUT  25 TC=0,0 
R_Amp_R1              Amp_N01454 VCC+  50 TC=0,0 
Q_Amp_Q46             VCC- In+ N00664 PNP_IN4 
Q_Amp_Q31             Amp_N02751 Amp_N02751 Amp_N02857 NPN3 .625
Q_Amp_Q32             Amp_N11692 Amp_N11692 Amp_N11700 PNP3 1
R_Amp_R2              Amp_N01430 VCC+  50 TC=0,0 
R_Amp_R11             VCC- Amp_N10318  72 TC=0,0 
Q_Amp_Q39             VCC- Amp_N07239 Amp_N09420 PNP3 .3
Q_Amp_Q24             Amp_N09152 Amp_N02517 Amp_N032540 NPN3 1
C_Amp_C1              0 Amp_N07239  .9p  TC=0,0 
R_Amp_R12             VCC- Amp_N10322  1 TC=0,0 
Q_Amp_Q30             Amp_N02517 Amp_N02517 Amp_N032380 NPN3 1
Q_Amp_Q45             Amp_N02751 N02600 In- PNP_IN4 
R_Amp_R3              Amp_N01735 Amp_N01408  600 TC=0,0 
R_Amp_R10             OUT OUT  25 TC=0,0 
Q_Amp_Q38             OUT Amp_N11692 Amp_N11696 PNP3 2
Q_Amp_Q29             Amp_N10326 Amp_N10326 Amp_N10318 NPN3 1
R_Amp_R4              Amp_N01731 Amp_N01408  600 TC=0,0 


.model NPN3 npn

+ is=1.7e-016
+ bf=400
+ vaf=100
+ ikf=0.0389
+ ise=7.6e-018
+ ne=1.1349
+ br=1.1187
+ var=4.4684
+ ikr=8
+ isc=8e-015
+ nc=1.8
+ re=0.122
+ rb=10
+ rc=0
+ cje=1.202e-013
+ vje=1.0888
+ mje=0.38141
+ cjc=1.338e-013
+ vjc=0.5897
+ mjc=0.26584
+ fc=0.1
+ tf=1.213e-011
+ xtf=272.2
+ vtf=10
+ itf=0.147
+ tr=3e-009
+ xtb=1
+ xti=5
+ kf=0.75e-014


.model NPN_IN4 npn

+ is=1.7e-016
+ bf=400
+ nf=1
+ vaf=100
+ ikf=0.0389
+ ise=7.6e-018
+ ne=1.13489
+ br=1.11868
+ nr=1
+ var=4.46837
+ ikr=8
+ isc=8e-015
+ nc=1.8
+ rb=10
+ re=0.122
+ rc=200
+ cje=1.202e-013
+ vje=1.0888
+ mje=0.381406
+ vjc=0.589703
+ mjc=0.265838
+ fc=0.1
+ cjc=1.338e-013
+ xtf=272.204
+ tf=1.213e-011
+ vtf=10
+ itf=0.147
+ tr=3e-009
+ xtb=1
+ xti=5
+ kf=0.75e-014


.model PNP3 pnp

+ is=2.96e-016
+ bf=100
+ nf=1
+ vaf=100
+ ikf=0.021
+ ise=4.94e-016
+ ne=1.49168
+ br=0.491925
+ nr=1
+ var=2.35634
+ ikr=8
+ isc=8e-015
+ nc=1.8
+ rb=10
+ re=0.122
+ rc=200
+ cje=1.202e-013
+ vje=0.940007
+ mje=0.55
+ vjc=0.588526
+ mjc=0.55
+ fc=0.1
+ cjc=1.338e-013
+ xtf=141.135
+ tf=1.213e-011
+ vtf=6.82756
+ itf=0.267
+ tr=3e-009
+ xtb=1
+ xti=5
+ kf=0.75e-014


.model PNP_IN4 pnp

+ is=2.96e-016
+ bf=100
+ nf=1
+ vaf=100
+ ikf=0.021
+ ise=4.94e-016
+ ne=1.49168
+ br=0.491925
+ nr=1
+ var=2.35634
+ ikr=8
+ isc=8e-015
+ nc=1.8
+ rb=10
+ re=0.122
+ rc=200
+ cje=1.202e-013
+ vje=0.940007
+ mje=0.55
+ vjc=0.588526
+ mjc=0.55
+ fc=0.1
+ cjc=1.338e-013
+ xtf=141.135
+ tf=1.213e-011
+ vtf=6.82756
+ itf=0.267
+ tr=3e-009
+ xtb=1
+ xti=5
+ kf=0.75e-014

.ENDS THS3110

.subckt Shutdown_Shutdown_F4 1 2 3 4  
F_Shutdown_F4         3 4 VF_Shutdown_F4 .188
VF_Shutdown_F4         1 2 0V
.ends Shutdown_Shutdown_F4

.subckt Shutdown_Shutdown_F5 1 2 3 4  
F_Shutdown_F5         3 4 VF_Shutdown_F5 .21
VF_Shutdown_F5         1 2 0V
.ends Shutdown_Shutdown_F5

.subckt Shutdown_Shutdown_F1 1 2 3 4  
F_Shutdown_F1         3 4 VF_Shutdown_F1 1.7559
VF_Shutdown_F1         1 2 0V
.ends Shutdown_Shutdown_F1

.subckt Shutdown_Shutdown_F6 1 2 3 4  
F_Shutdown_F6         3 4 VF_Shutdown_F6 .375
VF_Shutdown_F6         1 2 0V
.ends Shutdown_Shutdown_F6

.subckt Shutdown_Shutdown_F2 1 2 3 4  
F_Shutdown_F2         3 4 VF_Shutdown_F2 1.1
VF_Shutdown_F2         1 2 0V
.ends Shutdown_Shutdown_F2

.subckt Shutdown_Shutdown_S1 1 2 3 4  
S_Shutdown_S1         3 4 1 2 _Shutdown_S1
RS_Shutdown_S1         1 2 1G
.MODEL         _Shutdown_S1 VSWITCH Roff=1.0 Ron=1e6 Voff=.4 Von=1
.ends Shutdown_Shutdown_S1

.subckt Shutdown_Shutdown_F3 1 2 3 4  
F_Shutdown_F3         3 4 VF_Shutdown_F3 .95
VF_Shutdown_F3         1 2 0V
.ends Shutdown_Shutdown_F3

.subckt Shutdown_Shutdown_S2 1 2 3 4  
S_Shutdown_S2         3 4 1 2 _Shutdown_S2
RS_Shutdown_S2         1 2 1G
.MODEL         _Shutdown_S2 VSWITCH Roff=1e6 Ron=1.0 Voff=.9 Von=1
.ends Shutdown_Shutdown_S2
